US07271406B2
By the general method of Part B of Example 2, the reaction of 21.0 g (0.05377 mol) 2,5-dichloro-N′-(pentafluorobenzoyl)benzohydrazide in POCl3 gave a product which was recrystallized from ethanol/water to give 16.59 g (81% yield) of 2-(2,5-dichlorophenyl)-5-(pentafluorophenyl)-1,3,4-oxadiazole.

reactant | 2,5-dichloro-N′-(pentafluorobenzoyl)benzohydrazide | 0.05377 mol, 21.0 g | ClC1=C(C(=O)NNC(C2=C(C(=C(C(=C2F)F)F)F)F)=O)C=C(C=C1)Cl | C14H5Cl2F5N2O2
solvent | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-(2,5-dichlorophenyl)-5-(pentafluorophenyl)-1,3,4-oxadiazole | 16.59 g, 81% yield | ClC1=C(C=C(C=C1)Cl)C=1OC(=NN1)C1=C(C(=C(C(=C1F)F)F)F)F | C14H3Cl2F5N2O
